US04954507
3-(2,3,4,5-TETRAFLUOROPHENYL)-3-OXO-2-(((1,1-DIMETHYLETHYL)AMINO)METHYLENE)-PROPANOIC ACID ETHYL ESTER
A solution of 1.77 g (24.2 mmoles) tert-butylamine in 2 mL ethanol was added to a mixture of 7.05 g (22 mmoles) of 3-(2,3,4,5-tetrafluorophenyl)-3-oxo-2-(ethoxymethylene)-propanoic acid ethyl ester and 9 mL ethanol cooled in a bath containing ice and salt. More ethanol (2.3 mL) was added and the mixture was stirred at room temperature for 2 hours. After cooling at 0° C., the resulting precipitate was filtered and washed with ethanol to give 3.72 g of titled compound. MP 112° C.

reactant | tert-butylamine | 24.2 mmoles, 1.77 g | C(C)(C)(C)N | C4H11N
reactant | 3-(2,3,4,5-tetrafluorophenyl)-3-oxo-2-(ethoxymethylene)-propanoic acid ethyl ester | 22 mmoles, 7.05 g | C(C)OC(C(C(=O)C1=C(C(=C(C(=C1)F)F)F)F)=COCC)=O | C14H12F4O4
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 2.3 mL | C(C)O | C2H6O
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | 3-(2,3,4,5-TETRAFLUOROPHENYL)-3-OXO-2-(((1,1-DIMETHYLETHYL)AMINO)METHYLENE)-PROPANOIC ACID ETHYL ESTER | 3.72 g | C(C)OC(C(C(=O)C1=C(C(=C(C(=C1)F)F)F)F)=CNC(C)(C)C)=O | C16H17F4NO3
